US08183280B2
A. (2S)-1-(3-Methoxybenzoylamino)pyrrolidine-2-carboxylic acid benzyl ester
L-Proline benzyl ester hydrochloride (500 mg, 2.073 mmol) was dissolved in CH2Cl2 (10 ml). Triethylamine (600 mg, 6.0 mmol) and 3-anisoyl chloride (422 mg, 2.48 mmol) were added. After 18 h at room temperature the solvent was removed in vacuo and the residue was taken up in ethyl acetate (100 ml). This solution was washed with 0.3M KHSO4, sat. NaHCO3, water and brine, dried (Na2SO4) and evaporated in vacuo. The residue was purified by flash chromatography (eluant: 3% methanol, 97% chloroform) to give a colourless oil identified as the title compound (654 mg, 1.93 mmol, 93%).

reactant | L-Proline benzyl ester hydrochloride | 2.073 mmol, 500 mg | Cl.C(C1=CC=CC=C1)OC([C@H]1NCCC1)=O
reactant | Triethylamine | 6.0 mmol, 600 mg | C(C)N(CC)CC | C6H15N
reactant | 3-anisoyl chloride | 2.48 mmol, 422 mg | C(C1=CC(=CC=C1)OC)(=O)Cl | C8H7ClO2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | (2S)-1-(3-Methoxybenzoylamino)pyrrolidine-2-carboxylic acid benzyl ester | 1.93 mmol, 654 mg, 93% | C(C1=CC=CC=C1)OC(=O)[C@H]1N(CCC1)NC(C1=CC(=CC=C1)OC)=O | C20H22N2O4
